US09278915B2
Intermediate 176: Ethyl 5-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-2-oxo-1,3-dioxolane-4-carboxylate
To a stirring solution of methyl 2,3-dihydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoate (1.3 g, 2.8 mmol) in dichloromethane (20 mL) was added pyridine (1.4 g, 17.7 mmol) at −78° C. followed by solution of triphosgene (0.44 g, 15 mmol) in dichloromethane, and gradually warmed to RT then stirred at RT for 4 h. RM quenched with 1N HCl and extracted with dichloromethane. Organic layer was washed with water, NaHCO3 and brine, dried over anhydrous Na2SO4 and concentrated to colourless oil which was purified by column (60-120 silica) using 20% ethyl acetate in pet ether to get the titled compound as colourless oil. (0.8 g, Yield: 58%) 1H NMR (300 MHz, CDCl3): δ 7.62-7.64 (m, 2H), 7.34-7.45 (m, 8H), 7.06-7.09 (d, 2H), 6.91-6.94 (d, 2H), 5.88-5.91 (d, 1H), 5.41-5.44 (d, 1H), 5.23 (s, 2H), 5.04 (s, 2H), 3.99 (s, 3H), 3.76 (s, 3H).

reactant | methyl 2,3-dihydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoate | 2.8 mmol, 1.3 g | OC(C(=O)OC)C(C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC\C(\C1=CC=CC=C1)=N/OC)O | C26H27NO7
reactant | pyridine | 17.7 mmol, 1.4 g | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 15 mmol, 0.44 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Ethyl 5-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-2-oxo-1,3-dioxolane-4-carboxylate | Yield: 58% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)C2C(OC(O2)=O)C(=O)OCC)C=C1)\C1=CC=CC=C1 | C28H27NO8
